US03951959
1,3-Bis(butoxy)-8α-estra-1,3,5(10)-trien-17β-ol
Analogously to Example 12, 500 mg. of 8α -estra-1,3,5(10)-triene-1,3,17β-triol is reacted with 1.5 ml. of n-butyl bromide and worked up. Yield: 230 mg.

reactant | 8α -estra-1,3,5(10)-triene-1,3,17β-triol | C[C@@]12[C@H](CC[C@H]1[C@H]1CCC=3C=C(C=C(C3[C@H]1CC2)O)O)O | C18H24O3
reactant | n-butyl bromide | C(CCC)Br | C4H9Br
product | 1,3-Bis(butoxy)-8α-estra-1,3,5(10)-trien-17β-ol | C(CCC)OC1=CC(=CC=2CC[C@@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)O)OCCCC | C26H40O3
